US07846964B2
3-[4-(2-Hydroxy-3-methoxy-propoxy)-3,5-dimethyl-phenyl]-1-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-propan-1-one is prepared by treating 3-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-1-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-propan-1-one with sodium methylate in methanol at 65° C. for 16 h in analogy to the procedure given in Example 99; LC-MS: tR=1.10 min, [M+1]+=443.18.

reactant | 3-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-1-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-propan-1-one | CC=1C=C(C=C(C1OCC1OC1)C)CCC(=O)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C | C25H30O3S
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 3-[4-(2-Hydroxy-3-methoxy-propoxy)-3,5-dimethyl-phenyl]-1-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-propan-1-one | OC(COC1=C(C=C(C=C1C)CCC(=O)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C)C)COC | C26H34O4S
